US04382143
Preparation of diethyl O-(4-hexadecylamino-2-thiophenecarbonyl)tartrate
A mixture of 4-[N-(trifluoroacetyl)-N-(hexadecyl)amino]-2-thiophenecarbonyl chloride and 1.2 g. of triethylamine in 100 ml. of warm ether is treated with 2.5 g. of diethyl tartarate and refluxed for 24 hours. The hot solution is filtered, the residue is washed with hot ether, and the solution is evaporated. After treatment with aqueous methanolic potassium carbonate, the product is precipitated by acidification, filtered, and dried. Crystallization from acetone yields the product as a white solid.

reactant | 4-[N-(trifluoroacetyl)-N-(hexadecyl)amino]-2-thiophenecarbonyl chloride | FC(C(=O)N(CCCCCCCCCCCCCCCC)C=1C=C(SC1)C(=O)Cl)(F)F | C23H35ClF3NO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diethyl tartarate | C(C(O)C(O)C(=O)OCC)(=O)OCC | C8H14O6
solvent | ether | CCOCC | C4H10O
product | diethyl O-(4-hexadecylamino-2-thiophenecarbonyl)tartrate | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)OC(C(=O)OCC)C(O)C(=O)OCC | C29H49NO7S
